US07838543B2
Step 4. 4-Cyclohexyl-N-{2-[methyl-(1-methyl-pyrrolidin-3-ylmethyl)-amino]-benzooxazol-5-yl}-benzamide
Combine rac-N2-methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine (0.040 g, 0.154 mmol), 4-cyclohexylbenzoic acid (0.047 g, 0.230 mmol), HATU (0.058 g, 0.154 mmol), polystyrene-bound diisopropylamine (0.385 g, loading: 2.0 to 3.5 mmol/g), and CH2Cl2 (20 mL). Shake the mixture overnight at room temperature. Filter the mixture and wash the polystyrene resin with 1:1 CH2Cl2/MeOH. Subject the mixture to flash column chromatography (12 g column, eluting with 10% 2M NH3 in MeOH/CH2Cl2) to yield a colorless oil. The oil was dissolved in CH2Cl2 and hexane added. The mixture was concentrated and dried under high vacuum to yield the desired product as a white solid (0.034 g, 50%). mass spectrum (m/e): 447.3 (M+1). 1H NMR (400 MHz, CD3OD): δ 7.89-7.85 (m, 2H), 7.71 (d, J=2.0 Hz, 1H), 7.39-7.28 (m, 4H), 3.59 (m, 2H), 3.23 (s, 3H), 2.83-2.58 (m, 6H), 2.39 (s, 3H), 2.13-2.01 (m, 1H), 1.94-1.84 (m, 4H), 1.83-1.76 (m, 1H), 1.67-1.57 (m, 1H), 1.57-1.41 (m, 4H), 1.40-1.28 (m, 1H).

reactant | rac-N2-methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine | 0.154 mmol, 0.040 g | CN(C=1OC2=C(N1)C=C(C=C2)N)CC2CN(CC2)C | C14H20N4O
reactant | 4-cyclohexylbenzoic acid | 0.230 mmol, 0.047 g | C1(CCCCC1)C1=CC=C(C(=O)O)C=C1 | C13H16O2
reactant | HATU | 0.154 mmol, 0.058 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | hexane | CCCCCC | C6H14
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyclohexyl-N-{2-[methyl-(1-methyl-pyrrolidin-3-ylmethyl)-amino]-benzooxazol-5-yl}-benzamide | 0.034 g, 50% | C1(CCCCC1)C1=CC=C(C(=O)NC=2C=CC3=C(N=C(O3)N(CC3CN(CC3)C)C)C2)C=C1 | C27H34N4O2
